US05556864
86(b) N,N-Dimethyl-3-[2-(3-phenylpropyl)phenoxy]propylamine hydrochloride
100 mg of N,N-dimethyl-3-[2-(3-phenylpropyl)phenoxy]propylamine were dissolved in 2 ml of dioxane, and 0.1 ml of a 4N solution of hydrogen chloride in dioxane was added to the solution. The mixture was then concentrated by distillation under reduced pressure, and the resulting oil was dissolved in a small amount of ethyl acetate and allowed to stand at room temperature. The crystals which precipitated were collected by filtration and dried in vacuo, to give 53.9 mg (yield 48%) of the title compound as needles, melting at 147°-149° C.

reactant | N,N-dimethyl-3-[2-(3-phenylpropyl)phenoxy]propylamine | 100 mg | CN(C)CCCOC1=C(C=CC=C1)CCCC1=CC=CC=C1 | C20H27NO
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N,N-Dimethyl-3-[2-(3-phenylpropyl)phenoxy]propylamine hydrochloride | 53.9 mg, yield 48% | Cl.CN(C)CCCOC1=C(C=CC=C1)CCCC1=CC=CC=C1 | InChI=1S/C20H27NO.ClH/c1-21(2)16-9-17-22-20-15-7-6-13-19(20)14-8-12-18-10-4-3-5-11-18;/h3-7,10-11,13,15H,8-9,12,14,16-17H2,1-2H3;1H
